### ISSUE TITLE
Gallery integrity: erdos-558 has INCONSISTENT axiom (chung_graham_bounds proves False at t=1)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#40899]
## Integrity Issue (CRITICAL — inconsistent axiom set)

**Proof**: erdos-558 (Erdős Problem #558: Multicolor Ramsey Numbers for Complete Bipartite Graphs)
**File**: `proofs/Proofs/Erdos558Problem.lean`
**Problem**: The axiom `chung_graham_bounds` is **false**. Instantiated at `t = 1` it lets you derive `False`, so the entire `Erdos558` namespace is inconsistent and every theorem in it (`erdos_558`, `erdos_558_summary`) is vacuous.

## Evidence

The axiom (lines 95–98) requires only `t ≥ 1`:
```lean
axiom chung_graham_bounds (s t k : ℕ) (hs : s ≥ 1) (ht : t ≥ 1) (hk : k ≥ 2) :
  chungGrahamLower s t k ≤ R(K[s, t]; k) ∧
    (R(K[s, t]; k) : ℝ) ≤ chungGrahamUpper s t k
```
But the upper-bound formula degenerates to 0 at `t = 1`, while the lower bound stays strictly positive:
```lean
def chungGrahamUpper (s t k : ℕ) : ℝ := (t - 1 : ℝ) * (k + k^(1 / s : ℝ))^s   -- = 0 when t = 1
def chungGrahamLower (s t k : ℕ) : ℝ := (2πsqrt(st))^(1/(s+t)) * ((s+t)/e²) * k^((st-1)/(s+t))  -- > 0
```
So the axiom asserts `0 < chungGrahamLower ≤ R ≤ chungGrahamUpper = 0`, a contradiction.

The file's OWN proof of `erdos_558` (lines 160–186) already relies on this: in the `t = 1` branch it obtains `chung_graham_bounds s 1 k`, proves `chungGrahamLower s 1 k > 0` and `chungGrahamUpper s 1 k = 0`, and closes the goal by `exfalso`/`linarith`. That is a live demonstration that the axiom is contradictory.

**Verified**: appending the following to the file and building with `lake env lean` compiles with EXIT 0 (no errors) — `False` is provable:
```lean
theorem audit_false : False := by
  obtain ⟨hlo, hup⟩ := chung_graham_bounds 1 1 2 (le_refl 1) (le_refl 1) (by norm_num)
  have h0 : (0 : ℝ) < chungGrahamLower 1 1 2 := by ... -- positive
  have hupeq : chungGrahamUpper 1 1 2 = 0 := by unfold chungGrahamUpper; norm_num
  rw [hupeq] at hup
  have hR0 : (0 : ℝ) ≤ (R(K[1, 1]; 2) : ℝ) := Nat.cast_nonneg _
  linarith
```

## Recommended Fix

The Chung–Graham `K_{s,t}` bounds are stated in the literature for `t ≥ 2` (and `s ≥ t ≥ 2`); the `(t-1)` factor makes the upper bound meaningless at `t = 1`. Fix the axiom hypothesis to exclude the degenerate case:

- Change `chung_graham_bounds`'s hypothesis from `ht : t ≥ 1` to `ht : t ≥ 2` (and likely `hs : s ≥ 2`).
- Update `theorem erdos_558`'s hypotheses/first conjunct accordingly (it currently invokes the bounds at `t ≥ 1`; the `t = 1` exfalso branch was only reachable because the axiom was false — it should be dropped and the statement scoped to `t ≥ 2`).

This restores consistency; the axiom set then encodes only the genuine (unproven-here) literature bounds. Counts/badge (`axiom`/`axiomatized`, 5 axioms, 0 sorries) are otherwise honest.

---
Discovered during gallery integrity audit.
